US06346619B1
2,4,6-Tris(2-hydroxy-4-(1-octyloxycarbonylethoxy)phenyl)-1,3,5-triazine
15.60 g (0.0235 mol) of 2,4,6-tris(2-hydroxy-4-(1-methoxycarbonylethoxy)phenyl)-1,3,5-triazine are refluxed for 10 h with 0.45 g (0.00235 mol) of p-toluenesulfonic acid monohydrate and 14.85 ml (0.094 mol) of octanol (isomer mixture) in 50 ml of xylene until methanol is no longer split off. The reaction mixture is then cooled, washed with water and dried using MgSO4. The solvent is concentrated and the residue is chromatographed over silica gel, giving a yellowish resinous substance of the following structure:

reactant | 2,4,6-tris(2-hydroxy-4-(1-methoxycarbonylethoxy)phenyl)-1,3,5-triazine | 0.0235 mol, 15.60 g | OC1=C(C=CC(=C1)OC(C)C(=O)OC)C1=NC(=NC(=N1)C1=C(C=C(C=C1)OC(C)C(=O)OC)O)C1=C(C=C(C=C1)OC(C)C(=O)OC)O | C33H33N3O12
reactant | p-toluenesulfonic acid monohydrate | 0.00235 mol, 0.45 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | octanol | 0.094 mol, 14.85 ml | C(CCCCCCC)O | C8H18O
reactant | methanol | CO | CH4O
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2,4,6-Tris(2-hydroxy-4-(1-octyloxycarbonylethoxy)phenyl)-1,3,5-triazine | OC1=C(C=CC(=C1)OC(C)C(=O)OCCCCCCCC)C1=NC(=NC(=N1)C1=C(C=C(C=C1)OC(C)C(=O)OCCCCCCCC)O)C1=C(C=C(C=C1)OC(C)C(=O)OCCCCCCCC)O | C54H75N3O12
